US07582773B2
Step 4: Synthesis of [4-(3-Benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(3-benzyl-1,2-dimethyl-1H-indol-5-yl)-phenol (0.159 g, 0.486 mmol) was reacted with K2CO3 (0.087 g, 0.631 mmol) and bromoacetonitrile (0.076 g, 0.631 mmol) in acetone (5 ml) to give the product (0.161 g, 0.439 mmol, 90%) as a white solid, mp 135-138° C. 1H NMR (DMSO-d6) δ 2.40 (s, 3H), 3.68 (s, 3H), 4.07 (s, 2H), 5.18 (s, 2H), 7.08-7.12 (m, 3H), 7.20-7.25 (m, 4H), 7.32 (dd, J=1.8, 8.6 Hz, 1H), 7.41 (d, J=8.4 Hz, 1H), 7.57-7.60 (m, 3H); [ESI(+)], m/z 367 (M+H)+.

reactant | 4-(3-benzyl-1,2-dimethyl-1H-indol-5-yl)-phenol | 0.486 mmol, 0.159 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)O)C)C | C23H21NO
reactant | K2CO3 | 0.631 mmol, 0.087 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 0.631 mmol, 0.076 g | BrCC#N | C2H2BrN
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(3-Benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(OCC#N)C=C1)C)C | C25H22N2O
